US08563505B2
NaH (60% in oil) (0.239 g, 5.97 mmol) was added to a solution of (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-hydroxy-4-(2-vinylbiphenyl-4-yl)pyrrolidine-1,2-dicarboxylate (1.55 g, 3.31 mmol) and methyl iodide (0.373 mL, 5.97 mmol) at 0° C. in DMF and stirred at this temperature for 3 hrs. The reaction was then quenched with sat. NH4Cl solution and ether. The ether layer was washed with brine, dried, filtered and evaporated to give crude material. The crude material was purified by flash chromatography on the Biotage (20-40% EtOAc in hexanes) to give (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-methoxy-4-(2-vinylbiphenyl-4-yl)pyrrolidine-1,2-dicarboxylate (0.5 g, 1.038 mmol, 31% yield) as a clear oil. LCMS: rt=2.11 min. [M+Na]+=504; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent B=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min; inj. vol.=5 uL; wavelength=220.

reactant | NaH | 5.97 mmol, 0.239 g | [H-].[Na+]
reactant | (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-hydroxy-4-(2-vinylbiphenyl-4-yl)pyrrolidine-1,2-dicarboxylate | 3.31 mmol, 1.55 g | O[C@]1(C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC)C1=CC(=C(C=C1)C1=CC=CC=C1)C=C | C26H33NO5Si
reactant | methyl iodide | 5.97 mmol, 0.373 mL | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-methoxy-4-(2-vinylbiphenyl-4-yl)pyrrolidine-1,2-dicarboxylate | 1.038 mmol, 0.5 g, 31% yield | CO[C@]1(C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC)C1=CC(=C(C=C1)C1=CC=CC=C1)C=C | C27H35NO5Si
